US04572908
Preparation of 2-[(2-aminoethoxy)methyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine maleate
A suspension of 2-(2-azidoethoxymethyl)-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (103 g) in ethanol (2.5 l) was stirred for 16 hours at room temperature under one atmosphere of hydrogen in the presence of 5% palladium on calcium carbonate (40 g). The reaction mixture was filtered and evaporated and the residue treated with a solution of maleic acid (22 g) in ethanol (100 ml). The reaction mixture was stirred at room temperature for 2 hours and then the resulting solid collected, washed with ethanol, and dried to give the title compound (100 g), m.p. 169°-170.5°.

reactant | 2-(2-azidoethoxymethyl)-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 103 g | N(=[N+]=[N-])CCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | C20H23ClN4O5
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 2.5 l | C(C)O | C2H6O
catalyst | palladium on calcium carbonate | 40 g | [Pd] | Pd
product | 2-[(2-aminoethoxy)methyl]-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine maleate | 100 g | C(\C=C/C(=O)O)(=O)O.NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | InChI=1S/C20H25ClN2O5.C4H4O4/c1-4-28-20(25)18-15(11-27-10-9-22)23-12(2)16(19(24)26-3)17(18)13-7-5-6-8-14(13)21;5-3(6)1-2-4(7)8/h5-8,17,23H,4,9-11,22H2,1-3H3;1-2H,(H,5,6)(H,7,8)/b;2-1-
